2106-05-27 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname **] is an 80M with a history of CVA, who
   presents with pneumonia with sepsis physiology and significant
   hypernatremia.
   24 Hour Events:
 PRESEP CATHETER - START [**2106-5-26**] 08:27 PM
 ARTERIAL LINE - START [**2106-5-27**] 12:00 AM
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-27**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 77 (77 - 87) bpm
   BP: 111/46(69) {85/46(69) - 136/80(92)} mmHg
   RR: 30 (19 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (4 - 14)mmHg
   Mixed Venous O2% Sat: 63 - 83
   Total In:
                                                                  1,063 mL
                                                                  2,278 mL
   PO:
   TF:
   IVF:
                                                                  1,063 mL
                                                                  2,278 mL
   Blood products:
   Total out:
                                                                    415 mL
                                                                    330 mL
   Urine:
                                                                    165 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    648 mL
                                                                  1,948 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.43/30/95.[**Numeric Identifier **]/20/-2
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   255 K/uL
   10.0 g/dL
   111 mg/dL
   2.6 mg/dL
   20 mEq/L
   3.5 mEq/L
   53 mg/dL
   134 mEq/L
   163 mEq/L
   31.2 %
   13.9 K/uL
        [image002.jpg]
                             [**2106-5-26**]  08:22 PM
                             [**2106-5-26**]  08:27 PM
                             [**2106-5-27**]  12:17 AM
                             [**2106-5-27**]  02:41 AM
                             [**2106-5-27**]  02:54 AM
   WBC
   13.9
   Hct
   38
   31.2
   Plt
   255
   Cr
   3.0
   2.6
   2.6
   TCO2
   21
   Glucose
   149
   127
   111
   Other labs: Lactic Acid:1.4 mmol/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is an 80M with a history of CVA, who presents with pneumonia
   with sepsis physiology and significant hypernatremia.
   #. Sepsis:  Most likely etiology is from PNA seen on CXR. Has a
   leukocytosis with a left shift on differential.  Was admitted on a NRB,
   but has been weened down to 5L NC.  Hypotension on admission, but is
   markedly hypernatremic, so hypovolumia likely more to plan than from
   peripheral dilitation of vaculature. Patient was given levo/CTX/flagyl
   in ED.
   - send off sputum cultures and urine legionella
   - will add on vanc as lives in nursing home, and continue levoflox
   - aggressive fluid [**Known lastname 6076**], and pressors if necessary to keep MAP
   > 65
   - f/u blood cultures
   - Possibly due to pna, versus UTI
   #. Hypernatremia:  Unclear etiology, but likely from poor PO intake
   with insensible loses.  No history of gastrointestinal losses.  Would
   need to consider central or DI or dysregulation of thirst centers.
   Patient weighs 90 kg, so has a free water deficit 4.8 L.  Would ideally
   give 120ml of d5W per hour to correct patient within 56 hrs so as to
   not cause dangerous fluid shifts with correction.  However, given need
   for rapid fluid [**Last Name (LF) 6076**], [**First Name3 (LF) 116**] use 1/2 NS and matain close eye on
   sodium so as to not be lowered is by &#8804;0.5 meq/L per hour and no
   more than by 12 meq/L per day.  Likely etiology of altered mental
   status.
   - fluid correction with 1/2NS
   - will check urine osms
   #.  Lethargy:  Likely etilogy is from significant hypernatremia.  Also
   could be compounded from PNA.  UA shows no evidence of UTI.  With
   altered mental status and infection, would consider meningitis.  No
   nucall rigidity, and seems less likely at this time.
   - correct hypernatremia and treat PNA as given above.
   #. Renal failure:  Most likely from pre-renal, with low CVP and exam
   consistent with dehyrdation.  Other etiologies could be post-renal
   failure with history of BPH.  No great derangments on UA.  Unclear
   baseline.
   - recheck after fluid resusitation, if not normalizing, proceed with
   further work up.
   #. Hypercalcemia: Patient with history of paget's disease.  Likely
   hypercalcemia exacerbated by dehydration.  Will follow with fluid
   resusitation.
   #. CHF: currently hypovolemic.  Has [**1-8**]+ MR on prior TTE.  Will hold
   metoprolol and lasix in the setting of infection.
   #.  Hypothyroidism: cont sythroid
   #.  Hx of Stroke: cont ASA 81mg, could discuss increasing dose with
   PCP.
   #.  Schizoaffective disorder:  on Wellbutrin, zyprexa, and remeron as
   outpatient.  Will hold in the setting of altered mental status.
   #. FEN: replete lytes prn, will need S/S study, but will give pureed
   diet for now.
   #. PPX: Sc heparin, fall precautions, bowel regimen prn, PPI blocker
   with hx of GERD
   #. ACCESS: RIJ
   #. CODE STATUS: DNR but okay to intubate.
   # EMERGENCY CONTACT:  [**Name (NI) 3501**] [**Name (NI) 6077**] (HCP) [**Telephone/Fax (1) 6084**] (h)
   [**Telephone/Fax (1) 6085**] (c); [**First Name8 (NamePattern2) 332**] [**Last Name (NamePattern1) **] (home assistant) [**Telephone/Fax (1) 6086**] (h)
   [**Telephone/Fax (1) 6087**] (c) [**First Name4 (NamePattern1) 1048**] [**Known lastname **] (daugther) [**Telephone/Fax (1) 6088**] (c) [**Telephone/Fax (1) 6089**]
   (h) [**Telephone/Fax (1) 6090**] (cell of [**Name (NI) 6091**] husband)
   ICU [**Name (NI) 232**]
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-5-26**] 08:25 PM
   18 Gauge - [**2106-5-26**] 08:26 PM
   Presep Catheter - [**2106-5-26**] 08:27 PM
   Arterial Line - [**2106-5-27**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2106-05-28 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname **] is an 80M with a history of CVA, who
   presents with pneumonia with sepsis physiology and significant
   hypernatremia.
   24 Hour Events:
   doboff placed
   added free water boluses
   ordered for PICC
   HCT stable
   cvO2 63
   called thrice for ID approval on zosyn without callback, notified
   pharm; dose given
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-5-27**] 11:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-5-27**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-28**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 86 (76 - 106) bpm
   BP: 104/82(91) {78/45(61) - 121/82(92)} mmHg
   RR: 25 (15 - 38) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 9 (4 - 13)mmHg
   Total In:
                                                                  4,923 mL
                                                                    548 mL
   PO:
                                                                     60 mL
   TF:
   IVF:
                                                                  4,863 mL
                                                                    298 mL
   Blood products:
   Total out:
                                                                  1,160 mL
                                                                    200 mL
   Urine:
                                                                  1,160 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,763 mL
                                                                    348 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///17/
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   192 K/uL
   9.6 g/dL
   79 mg/dL
   2.2 mg/dL
   17 mEq/L
   4.0 mEq/L
   37 mg/dL
   130 mEq/L
   157 mEq/L
   30.6 %
   11.1 K/uL
        [image002.jpg]
                             [**2106-5-26**]  08:22 PM
                             [**2106-5-26**]  08:27 PM
                             [**2106-5-27**]  12:17 AM
                             [**2106-5-27**]  02:41 AM
                             [**2106-5-27**]  02:54 AM
                             [**2106-5-27**]  11:02 AM
                             [**2106-5-27**]  05:10 PM
                             [**2106-5-28**]  03:35 AM
   WBC
   13.9
   10.4
   11.1
   Hct
   38
   31.2
   30.6
   30.6
   Plt
   255
   196
   192
   Cr
   3.0
   2.6
   2.6
   2.5
   2.3
   2.2
   TCO2
   21
   Glucose
   149
   127
   111
   99
   105
   79
   Other labs: Alk Phos / T Bili:/0.4, Lactic Acid:1.4 mmol/L, Ca++:8.5
   mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is an 80M with a history of CVA, who presents with pneumonia
   with sepsis physiology and significant hypernatremia.
   #. Sepsis:  Most likely etiology is from PNA seen on CXR. Has a
   leukocytosis with a neutrophilic predominance on differential.  Was
   admitted on a NRB, but has been weaned down to 5L NC.  Hypotension on
   admission, but is markedly hypernatremic, so hypovolumia likely more to
   plan than from peripheral dilitation of vaculature. Patient was given
   levo/CTX/flagyl in ED, continued on vanc/zosyn in MICU.
   - recheck CV O2 sat
   - continue NS boluses as needed for intravascular volume expansion with
   goal MAP > 65
   - continue vanc/zosyn given risk of healthcare-associated pneumonia
   - f/u blood and urine cultures
   #. Hypernatremia:  Unclear etiology, but likely from poor PO intake
   with insensible loses.  No history of gastrointestinal losses.  Would
   need to consider central or DI or dysregulation of thirst centers.
   Patient weighs 90 kg and had a free water deficit of 7 L at
   presentation.
   - correct sodium at 1/2 mEq per hour with D5W at 150 cc/hr
   - trend chemistries tid
   - check urine osmoles
   - consider Duboff placement for free water boluses after discussion
   with family
   #. Renal failure:  Most likely from pre-renal, with low CVP and exam
   consistent with volume depletion.  Other etiologies could be post-renal
   failure with history of BPH.  Trending down with IVFs.  No great
   derangements on UA.  Unclear baseline.
   - obtain [**Hospital1 966**] records to clarify Creatinine baseline
   - recheck after fluid resuscitation, if not normalizing, proceed with
   further work up.
   #. Anemia:   Hct drop to 31 from 45 on admission with unknown baseline,
   likely closer to baseline now given volume depletion and hypernatremia
   at presentation.   Normal bilirubin.
   - recheck p.m. hct
   #. Hypercalcemia: Patient with history of paget's disease.  Likely
   hypercalcemia exacerbated by dehydration.  Will follow with fluid
   resuscitation.
   #. CHF:  Has [**1-8**]+ MR on prior TTE.  Will hold metoprolol and lasix in
   the setting of infection.
   #.  Hypothyroidism: cont synthroid
   #.  Hx of Stroke: cont ASA 81mg, could discuss increasing dose with
   PCP.
   #.  Schizoaffective disorder:  on Wellbutrin, zyprexa, and remeron as
   outpatient.  Will hold in the setting of altered mental status.
   #. FEN: replete lytes prn, will need S/S study, but will give pureed
   diet for now.
   #. PPX: Sc heparin, fall precautions, bowel regimen prn, PPI blocker
   with hx of GERD
   #. ACCESS: RIJ
   #. CODE STATUS: DNR but okay to intubate, family prefers to avoid
   aggressive/invasive procedures if possible and prioritize reducing
   patient
s discomfort.
   # EMERGENCY CONTACT:  [**Name (NI) 3501**] [**Name (NI) 6077**] (HCP) [**Telephone/Fax (1) 6084**] (h)
   [**Telephone/Fax (1) 6085**] (c); [**First Name8 (NamePattern2) 332**] [**Last Name (NamePattern1) **] (home assistant) [**Telephone/Fax (1) 6086**] (h)
   [**Telephone/Fax (1) 6087**] (c) [**First Name4 (NamePattern1) 1048**] [**Known lastname **] (daugther) [**Telephone/Fax (1) 6088**] (c) [**Telephone/Fax (1) 6089**]
   (h) [**Telephone/Fax (1) 6090**] (cell of [**Name (NI) 6091**] husband)
   ICU [**Name (NI) 232**]
   Nutrition: NPO for now
   Glycemic Control:
   DVT: heparin sc
   Stress ulcer:  None
   Disposition: Hope to transfer to [**Hospital **] Rehab tomorrow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-5-26**] 08:25 PM
   18 Gauge - [**2106-5-26**] 08:26 PM
   Presep Catheter - [**2106-5-26**] 08:27 PM
   Arterial Line - [**2106-5-27**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: